US04022833
Condensation of 1-undecene oxide and N,N'-dipropylhexamethylenediamine affords N,N'-(1,6-hexylene)-bis[N-propyl-2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R'=CH3 (CH2)2, X= (CH2)6, Z= H).

reactant | 1-undecene oxide | C1C(CCCCCCCCC)O1 | C11H22O
reactant | N,N'-dipropylhexamethylenediamine | C(CC)NCCCCCCNCCC | C12H28N2
product | N,N'-(1,6-hexylene)-bis[N-propyl-2-hydroxyundecylamine] | C(CCCCCN(CCC)CC(CCCCCCCCC)O)N(CCC)CC(CCCCCCCCC)O | C34H72N2O2
